US06599917B1
c) 2-Phenyl-6-morpholino-3-iodopyridine
A solution of 750 mg of 2-phenyl-6-morpholinopyridine and 5 ml of N,N-dimethylformamide was stirred in an ice bath, and to the mixture was added 740 mg of N-iodosuccinimide, followed by stirring at room temperature overnight. Further, 70 mg of N-iodosuccinimide was added thereto, followed by stirring at room temperature for 5 hours. The reaction mixture was extracted by adding ethyl acetate, water and sodium sulfite thereto, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography using 5-10% ethyl acetate/hexane, to give 1.1 g of the target compound.

reactant | 2-phenyl-6-morpholinopyridine | 750 mg | C1(=CC=CC=C1)C1=NC(=CC=C1)N1CCOCC1 | C15H16N2O
reactant | N-iodosuccinimide | 740 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-iodosuccinimide | 70 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-Phenyl-6-morpholino-3-iodopyridine | 1.1 g | C1(=CC=CC=C1)C1=NC(=CC=C1I)N1CCOCC1 | C15H15IN2O
